US07858632B2
To a solution of (5-chloro-2-isopropyl-4-methoxy-phenoxy)-acetonitrile (1.44 g, 6.0 mmol) and ethyl formate (2.2 g, 29.2 mmol) in 7 mL 1,2-dimethoxy ethane at 5° C. was added 95% NaH (0.15 g, 6.0 mmol) in one portion. The mixture was warmed to room temperature. After 1 hour 95% NaH (0.15 g, 6.0 mmol) was added in one portion. After 1 hour 10 mL iodomethane was added and the mixture was allowed to stir for 16 hour. The mixture was concentrated in vacuo, 1N HCl was added and the mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (85:15 hexane/ethyl acetate) afforded 2-(5-chloro-2-isopropyl-4-methoxy-phenoxy)-3-methoxy-acrylonitrile (1.41 g, 84%) as a white solid.

reactant | (5-chloro-2-isopropyl-4-methoxy-phenoxy)-acetonitrile | 6.0 mmol, 1.44 g | ClC=1C(=CC(=C(OCC#N)C1)C(C)C)OC | C12H14ClNO2
reactant | ethyl formate | 29.2 mmol, 2.2 g | C(=O)OCC | C3H6O2
reactant | NaH | 6.0 mmol, 0.15 g | [H-].[Na+]
reactant | NaH | 6.0 mmol, 0.15 g | [H-].[Na+]
reactant | iodomethane | 10 mL | IC | CH3I
solvent | 1,2-dimethoxy ethane | 7 mL | COCCOC | C4H10O2
product | 2-(5-chloro-2-isopropyl-4-methoxy-phenoxy)-3-methoxy-acrylonitrile | 1.41 g, 84% | ClC=1C(=CC(=C(OC(C#N)=COC)C1)C(C)C)OC | C14H16ClNO3
